US07579488B2
Preparation of [(5-{1-[4-(2-tert-butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carbonyl)-amino]-acetic acid
5-{1-[4-(2-tert-Butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethylpropyl}-7-methyl-benzofuran-2-carboxylic acid (180 mg, 0.364 mmol), EDC (105 mg, 0.546 mmol), DMAP (133 mg, 1.09 mmol, and glycine methyl ester hydrochloride (68 mg, 0.55 mmol) are reacted to produce the intermediate followed by hydrolysis analogous to Example 7 to give title compound (195 mg, 97%).

reactant | 5-{1-[4-(2-tert-Butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethylpropyl}-7-methyl-benzofuran-2-carboxylic acid | 0.364 mmol, 180 mg | C(C)(C)(C)C1(OCCO1)COC1=C(C=C(C=C1)C(CC)(CC)C=1C=C(C2=C(C=C(O2)C(=O)O)C1)C)C | C30H38O6
reactant | EDC | 0.546 mmol, 105 mg
reactant | glycine methyl ester hydrochloride | 0.55 mmol, 68 mg | Cl.COC(CN)=O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | [(5-{1-[4-(2-tert-butyl-[1,3]dioxolan-2-ylmethoxy)-3-methyl-phenyl]-1-ethyl-propyl}-7-methyl-benzofuran-2-carbonyl)-amino]-acetic acid | 195 mg, 97% | C(C)(C)(C)C1(OCCO1)COC1=C(C=C(C=C1)C(CC)(CC)C=1C=C(C2=C(C=C(O2)C(=O)NCC(=O)O)C1)C)C | C32H41NO7
